US04680301
A solution of 2.7 g of 2-tert-butyl-5-chloro-6-nitrobenzothiazole described in example 5, in 25 ml of dimethyl sulfoxide is stirred and heated at 140° for 11 hours with 2.6 g of anhydrous potassium carbonate and 1 g of 3-methylpiperidine, cooled and poured into water. The material obtained is dissolved in chloroform and filtered through a silica gel column. The filtrate is evaporated to give 2-tert-butyl-5-[3-methylpiperidin-1-yl]-6-nitrobenzothiazole as an oil.

reactant | 2-tert-butyl-5-chloro-6-nitrobenzothiazole | 2.7 g | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)[N+](=O)[O-])Cl | C11H11ClN2O2S
reactant | potassium carbonate | 2.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methylpiperidine | 1 g | CC1CNCCC1 | C6H13N
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 25 ml | CS(=O)C | C2H6OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-tert-butyl-5-[3-methylpiperidin-1-yl]-6-nitrobenzothiazole | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)[N+](=O)[O-])N2CC(CCC2)C | C17H23N3O2S
